US07981903B2
A mixture of 1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinone (600 mg, 2.4 mmol), commercially available 3,3-difluoropiperidine hydrochloride (753 mg, 4.8 mmol), acetic acid (0.20 mL, 3.6 mmol) and triethylamine (0.33 mL, 3.6 mmol) in 1,2-dichloroethane was stirred for 30 minutes. Sodium triacetoxyborohydride (615 mg, 2.9 mmol) was added. When LC/MS indicated the absence of starting material, the reaction was quenched with the addition of sat'd NaHCO3. The reaction was diluted with dichloromethane and the layers were separated. The aqueous phase was extracted with dichloromethane. The combined organic layers were washed with water, dried over MgSO4 and concentrated onto silica gel. The crude material was purified by flash column chromatography to give 3,3-difluoro-1′-[3-(methyloxy)-4-nitrophenyl]-1,4′-bipiperidine (584 mg, 68%). 1H NMR (400 MHz, d6-DMSO) δ 7.84 (d, J=9.6 Hz, 1H), 6.55 (dd, J=9.6 and 2.0 Hz, 1H), 6.46 (d, J=2.0 Hz, 1H), 4.04 (d, J=12.8 Hz, 1H), 3.87 (s, 3H), 2.90 (t, J=12.0 Hz, 2H), 2.72-2.60 (m, 3H), 2.47 (m under DMSO peak, 2H), 1.87-1.74 (m, 4H), 1.61-1.58 (m, 2H), 1.48-1.38 (m, 2H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinone | 2.4 mmol, 600 mg | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)=O | C12H14N2O4
reactant | 3,3-difluoropiperidine hydrochloride | 4.8 mmol, 753 mg | Cl.FC1(CNCCC1)F
reactant | acetic acid | 3.6 mmol, 0.20 mL | C(C)(=O)O | C2H4O2
reactant | triethylamine | 3.6 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 2.9 mmol, 615 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3,3-difluoro-1′-[3-(methyloxy)-4-nitrophenyl]-1,4′-bipiperidine | 584 mg, 68% | FC1(CN(CCC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)F | C17H23F2N3O3
